US05451601
A solution of 3.5 cm3 of morpholinosulphur trifluoride in 50 cm3 of dichloromethane is added to a solution, cooled to +5° C., of 9.4 g of (3aR,4S,7aR)-7,7-diphenyl-2-tert-butyloxycarbonyl-4-perhydroisoindolol in 250 cm3 of dry dichloromethane. The reaction mixture is stirred for 4 hours at +5° C. and then diluted with 300 cm3 of dichloromethane, washed with 250 cm3 of an aqueous solution of sodium hydrogen carbonate, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 3.5 cm, height 42 cm), eluting under a nitrogen pressure of 0.5 bar with a cyclohexane and ethyl acetate mixture (90/10 by volume) and collecting fractions of 120 cm3. Fractions 13 to 17 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from cyclohexane. 2.55 g of (3aR,7R,7aR)-4,4-diphenyl-7-fluoro-2-tert-butyloxycarbonylperhydroisoindole are obtained in the form of white crystals; melting point 202° C.

reactant | morpholinosulphur trifluoride | 3.5 cm3 | O1CCN(CC1)S(F)(F)F | C4H8F3NOS
reactant | (3aR,4S,7aR)-7,7-diphenyl-2-tert-butyloxycarbonyl-4-perhydroisoindolol | 9.4 g | C1(=CC=CC=C1)C1(CC[C@@H]([C@H]2CN(C[C@@H]12)C(=O)OC(C)(C)C)O)C1=CC=CC=C1 | C25H31NO3
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 250 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 300 cm3 | ClCCl | CH2Cl2
product | (3aR,7R,7aR)-4,4-diphenyl-7-fluoro-2-tert-butyloxycarbonylperhydroisoindole | 2.55 g | C1(=CC=CC=C1)C1([C@@H]2CN(C[C@@H]2[C@@H](CC1)F)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C25H30FNO2
